* Buck with IGBT — ngspice benchmark
* Matches Pulsim benchmarks/circuits/buck_igbt.yaml
*
* Pulsim's IGBT (vth=5, g_on=200, g_off=1e-6, v_ce_sat=1.5) in the
* Behavioral path collapses to a voltage-controlled conductance:
*   ON  (Vge > 5 V and Vce > 0): ic = g_on * vce  → R_CEon = 5 mΩ
*   OFF                          ic = g_off * vce → R_CEoff = 1 MΩ
* (The v_ce_sat parameter is loss-model territory — it does NOT appear
* in the AD path's collector-current expression. So the comparison
* against ngspice's SW model is exact in the linear-conductance sense.)
*
* ngspice has no native IGBT primitive; emulate with a voltage-
* controlled switch. Same model the buck_switching, boost, etc. use.
*
* PWM: 50 kHz, duty=0.4 (PSIM convention: high-time = duty * period
* exactly). PW = 8.0 µs. TR=TF=1n match Pulsim's instantaneous edges.
* Drive amplitude = 35 V to keep the high-side IGBT solidly above
* threshold (Vcc + Vth = 29 V).

Vdc  vcc 0 DC 24
Vpwm ctrl 0 PULSE(0 35 0 1n 1n 8.0u 20u)

* IGBT emulation: control voltage = V(ctrl), threshold = 5 V (with
* 0.1 V hysteresis). Closed connects vcc → sw with RON = 1/g_on = 5 mΩ.
S1 vcc sw ctrl 0 IGBTMOD
.model IGBTMOD SW(VT=5 VH=0.1 RON=5m ROFF=1Meg)

* Freewheel diode (Pulsim diode g_on=200 → RON=5 mΩ).
S2 0 sw 0 sw DMOD
.model DMOD SW(VT=0 VH=1m RON=5m ROFF=1Meg)

Rdcr sw n_l 20m
L1   n_l out 47u  IC=0
C1   out 0   100u IC=0
Rload out 0 10

.tran 0.2u 350u
.end
